US04965257
1-[4-(3-Methoxyprop-1-ynl)phenyl[-4-n-propyl-3-trifluoromethyl-2,6,7-trioxabicyclo[2,2,2]octane was prepared from 1-(4-iodophenyl)-4-n-propyl-3-trifluoromethyl-2,6,7-trioxabicyclo[2,2,2]octane and methyl propargyl ether using the methodology described in Example 3.

reactant | 1-(4-iodophenyl)-4-n-propyl-3-trifluoromethyl-2,6,7-trioxabicyclo[2,2,2]octane | IC1=CC=C(C=C1)C12OC(C(CO1)(CO2)CCC)C(F)(F)F | C15H16F3IO3
reactant | 4-t-butyl-1-[4-(3-methoxyprop-1-ynyl)phenyl]-2,6,7-trioxabicyclo[2,2,2]octane | C(C)(C)(C)C12COC(OC1)(OC2)C2=CC=C(C=C2)C#CCOC | C19H24O4
product | 4-n-propyl-3-trifluoromethyl-2,6,7-trioxabicyclo[2,2,2]octane | C(CC)C12C(OC(OC1)OC2)C(F)(F)F | C9H13F3O3
